US08629157B2
Synthesis of (S)-1-(4-chloro-benzenesulfonyl)-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide
To a solution of (S)-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide; hydrochloride (0.150 g; 0.580 mmol) in N,N-dimethylformamide (2 mL) is added 4-chlorophenylsulfonyl chloride (0.122 g; 0.580 mmol) and triethylamine (0.243 mL; 1.740 mmol). The mixture is stirred at room temperature overnight. After this time, the mixture is diluted with water and extracted with ethyl acetate. The combined organics are washed with aqueous saturated sodium bicarbonate solution, 1N hydrochloric acid, and brine, dried (Na2SO4), filtered and concentrated in vacuo. The crude material is purified by preparative HPLC to afford title compound. ESI m/z 412 [M+NH4]+

reactant | (S)-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide | C(C)(C)(C)C1=CC(=NO1)NC(=O)[C@H]1NCCC1 | C12H19N3O2
reactant | hydrochloride | 0.580 mmol, 0.150 g | Cl | ClH
reactant | 4-chlorophenylsulfonyl chloride | 0.580 mmol, 0.122 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | triethylamine | 1.740 mmol, 0.243 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (S)-1-(4-chloro-benzenesulfonyl)-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide | C(C)(C)(C)C1=CC(=NO1)NC(=O)[C@H]1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)Cl | C18H22ClN3O4S
